US09193720B2
The 1.4 mL of benzo[d][1,3,2]dioxaborole (797 mg, 6.65 mmol) was added to a nitrogen purged solution of isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-(trifluoromethyl)piperidin-1-yl)pyridin-3-yl)-2-oxoacetate (2 g, 4.43 mmol) and 0.89 mL of (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole (246 mg, 0.89 mmol) in toluene (40 mL) at −60° C. and allowed to warm to −15° C. before being placed in the freezer overnight. The reaction was quenched with 1M Na2CO3, diluted with EtOAc, and stirred for 30 min. The organic layer was washed with sat'd Na2CO3 solution, brine, and dried (MgSO4). The crude product was charged (DCM) to a 40 g ISCO silica gel cartridge and gradient elution (0-30% EtOAc/hexanes) using an Isolera chromatography station gave isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-(trifluoromethyl)piperidin-1-yl)pyridin-3-yl)-2-hydroxyacetate 2.04 g (100%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 5.97/5.82 (d, J=4.4 Hz, 1H), 4.97-4.92 (m, 1H), 3.65 (t, J=11.4 Hz, 1H), 3.20-3.17 (m, 1H), 2.99 (d, J=9.5 Hz, 1H), 2.85 (t, J=12.1 Hz, 1H), 2.53 (s, 3H), 2.40 (s, 3H), 2.31 (br. s, 1H), 1.83-1.77 (m, 2H), 1.69-1.55 (m, 2H), 1.15 (d, J=6.2 Hz, 3H), 1.07 (d, J=6.2 Hz, 3H). UPLC (M+H)=453.4.

reactant | benzo[d][1,3,2]dioxaborole | 6.65 mmol, 1.4 mL, 797 mg | O1BOC2=C1C=CC=C2 | C6H5BO2
reactant | isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-(trifluoromethyl)piperidin-1-yl)pyridin-3-yl)-2-oxoacetate | 4.43 mmol, 2 g | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)N1CCC(CC1)C(F)(F)F | C18H22BrF3N2O3
reactant | (R)-1-methyl-3,3-diphenylhexahydropyrrolo[1,2-c][1,3,2]oxazaborole | 0.89 mmol, 0.89 mL, 246 mg | CB1OC([C@@H]2N1CCC2)(C2=CC=CC=C2)C2=CC=CC=C2 | C18H20BNO
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-(trifluoromethyl)piperidin-1-yl)pyridin-3-yl)-2-hydroxyacetate | 2.04 g, 100% | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)O)N1CCC(CC1)C(F)(F)F | C18H24BrF3N2O3
